US05665718
0.94 ml (73 mmol) of dipropylamine was added to a solution of 1.17 g (3.42 mmol) of (S)-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 10 ml of dimethylformamide, whereupon the mixture was stirred at room temperature for 12 hours. The dimethylformamide was evaporated and the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous phase was washed twice with methylene chloride and the organic phases were dried with sodium sulfate, filtered and evaporated. Chromatography (silica gel, methylene chloride/methanol 95:5) yielded 0.900 g (65%) of (S)-1-(5-dipropylaminomethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a]-[1,4]benzodiazepin-9-one as a colourless foam, Rf=0.46 (silica gel, methylene chloride/methanol 95:5).

reactant | dipropylamine | 73 mmol, 0.94 ml | C(CC)NCCC | C6H15N
reactant | (S)-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 3.42 mmol, 1.17 g | ClCC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H12ClN5O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-dipropylaminomethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a]-[1,4]benzodiazepin-9-one | 0.900 g, 65% | C(CC)N(CCC)CC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C22H26N6O2
